US05134231
In the same manner as in Reference Example 1-2 but using ethyl 2-carboxypropionate (3.65 g; 25 mmole), 1,1'-carbonyldiimidazole (4.455 g; 27.5 mmole) and malonic acid monobenzyl ester magnesium salt (11.275 g; 27.5 mmole), there was produced benzyl 4-ethoxycarbonyl-3-oxopentanoate.

reactant | ethyl 2-carboxypropionate | 25 mmole, 3.65 g | C(=O)(O)C(C(=O)OCC)C | C6H10O4
reactant | 1,1'-carbonyldiimidazole | 27.5 mmole, 4.455 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | malonic acid monobenzyl ester magnesium salt | 27.5 mmole, 11.275 g | [Mg+2].C(C1=CC=CC=C1)OC(CC(=O)[O-])=O.C(CC(=O)[O-])(=O)OCC1=CC=CC=C1
product | benzyl 4-ethoxycarbonyl-3-oxopentanoate | C(C)OC(=O)C(C(CC(=O)OCC1=CC=CC=C1)=O)C | C15H18O5
